US06566377B2
1-(4-Methoxy-phenyl)-1H-pyrazole
Copper (II) acetate (960 mg, 5.28 mmol) was added to a flame-dried flask charged with pyrazole (240 mg, 3.52 mmol), 4-methoxyphenylboronic acid (1.07 g, 7.04 mmol), 4 A molecular sieves (1.35 activated powder), and pyridine (570 μl, 7.04 mmol) in methylene chloride. The reaction was stirred for approximately two days at room temperature and then filtered through diatomaceous earth. The filtrate was concentrated in vacuo and purified by column chromatography (silica gel; isocratic 8% ethyl acetate/hexanes) to yield 381 mg (2.18 mmol, 62% yield) of the title compound. LRMS ([M+H]+)=175.2.

reactant | pyrazole | 3.52 mmol, 240 mg | N1N=CC=C1 | C3H4N2
reactant | 4-methoxyphenylboronic acid | 7.04 mmol, 1.07 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | pyridine | 7.04 mmol, 570 μl | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Copper (II) acetate | 5.28 mmol, 960 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-(4-Methoxy-phenyl)-1H-pyrazole | 2.18 mmol, 381 mg, 62% yield | COC1=CC=C(C=C1)N1N=CC=C1 | C10H10N2O
